US06849657B2
A solution of methyl thioglycolate (10.0 mL, 113 mmol) in tetrahydrofuran (200 mL) at −78° C. under argon atmosphere was treated dropwise with n-butyllithium (2.5 M hexanes solution, 45 mL, 113 mmol). After 1 h at −78° C., the cloudy solution was rapidly treated with 1-bromo-4-chlorobutane (13.0 mL, 113 mmol) and allowed to warm to room temperature overnight. It was poured into water and hexanes, washed with cold aqueous sodium hydroxide solution (0.1 M) followed with saturated aqueous ammonium chloride, and the organic layer was stored over anhydrous sodium sulfate. The volatiles were removed and the residue was purified by chromatography and eluted with 8:1 hexane:ethyl acetate to yield [(4-chlorobutyl)thio]acetic acid methyl ester (10.7 g, 54.5 mmol) as a colorless liquid: EIMS m/z 198 (M+ with 37Cl), 196 (M+ with 35Cl).

reactant | methyl thioglycolate | 113 mmol, 10.0 mL | C(CS)(=O)OC | C3H6O2S
reactant | n-butyllithium | 113 mmol, 2.5 M, 45 mL | C(CCC)[Li]
reactant | 1-bromo-4-chlorobutane | 113 mmol, 13.0 mL | BrCCCCCl | C4H8BrCl
reactant | water | O | H2O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [(4-chlorobutyl)thio]acetic acid methyl ester | 54.5 mmol, 10.7 g | COC(CSCCCCCl)=O | C7H13ClO2S
